US04743601
3-Bromo-N-(2-hydroxyethyl)-2-methyl-4-quinolinamine
Bromine (15.6 g) was added dropwise to a solution of N-(2-hydroxyetyl)-2-methyl-4-quinolinamine (26 g) in 400 ml of acetic acid. A solid separated which after one hour of stirring was filtered and dissolved in 400 ml of water. The free base was precipitated by adding 20% KOH solution until pH became 10. The solid was filtered and recrystallized from isopropanol. The yield was 14.5 g, mp 154°-155° C.

reactant | Bromine | 15.6 g | BrBr | Br2
reactant | N-(2-hydroxyetyl)-2-methyl-4-quinolinamine | 26 g | OCCNC1=CC(=NC2=CC=CC=C12)C | C12H14N2O
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-N-(2-hydroxyethyl)-2-methyl-4-quinolinamine | BrC=1C(=NC2=CC=CC=C2C1NCCO)C | C12H13BrN2O
